Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
codeine
 
Attending: ___
 
Chief Complaint:
thunderclap headache 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ woman with history of depression on
Lexapro hypothyroidism who presents at outside hospital transfer
for further management of a convexal SAH.  Briefly patient 
reports she woke
up this morning with a headache took Motrin which improved a
headache.  She went to work, and on her way back home had sudden
onset of severe headache.  Denies focal neurological symptoms
associated with the headache.  Went to urgent care received
Toradol and was told to come to the emergency room.  At OSH ED
she she was found to have a blood pressure of 163/94 for which
she was given labetalol.  She underwent CT head which per OSH
report showed small focus of acute SAH and or IPH. On arrival to
___ her blood pressure was 158/89 heart rate 68 satting 100% 
on
room air.  Neurosurgery was consulted,  no intervention and
recommended disposition per ED. 

On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
Hypothyroidism
Depression
 
Social History:
___
Family History:
no fam hx of aneurysm or stroke                  

 
Physical Exam:
Admission Exam:
P: 68 R: 16  BP:158/89  SaO2:100%RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: CTAB, no increased work of breathing
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. The pt had good knowledge of current events. There was
no evidence of apraxia or neglect.
-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation.
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

- Motor - Normal bulk and tone. No drift. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    
 R   5     5     5     5     5    5     5     5     5    

-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+         
Plantar response flexor bilaterally. 
-Sensory: No deficits to light touch throughout. No extinction 
to
DSS.
-Coordination: No intention tremor. No dysmetria on FNF
bilaterally.
-Gait: Deferred
=====================================
Discharge Exam:
Vitals within normal limits
Gen: awake, alert, comfortable, in no acute distress
HEENT: normocephalic atraumatic, no oropharyngeal lesions 
CV: warm, well perfused
Pulm: breathing non labored on room air
Extremities: no cyanosis/clubbing or edema

Neurologic:
-MS: Awake, alert, oriented to self, place, time and situation. 
Easily maintains attention to examiner. Able to say months of 
the year backwards. Speech fluent, no dysarthria.  No evidence 
of hemineglect.
-CN: Gaze congjugate, ___, EOMI no nystagmus, face symmetric, 
palate elevates symmetrically, tongue midline
-Motor: normal bulk and tone. Muscle strength ___ in bilateral 
upper and lower extremities. No tremor or asterixis. 
-Sensory: intact to LT and proprioception in bilateral UE and ___
-Coordination: finger nose finger intact, no dysmetria
-Gait: narrow based, normal stride length, no ataxia or sway 
 
Pertinent Results:
ADMISSION LABS: 
___ 07:20PM BLOOD %HbA1c-6.1* eAG-128*
___ 07:20PM BLOOD Triglyc-145 HDL-62 CHOL/HD-4.2 
LDLcalc-172*
___ 07:20PM BLOOD TSH-7.7*
___ 12:00AM BLOOD WBC-8.5 RBC-4.11 Hgb-12.2 Hct-38.4 MCV-93 
MCH-29.7 MCHC-31.8* RDW-13.9 RDWSD-47.3* Plt ___
___ 12:00AM BLOOD Neuts-65.9 ___ Monos-5.4 Eos-0.5* 
Baso-0.6 Im ___ AbsNeut-5.59 AbsLymp-2.33 AbsMono-0.46 
AbsEos-0.04 AbsBaso-0.05
___ 12:00AM BLOOD Glucose-140* UreaN-13 Creat-0.9 Na-138 
K-5.3* Cl-100 HCO3-23 AnGap-20
___ 07:20PM BLOOD CK(CPK)-115

IMAGING:
MRI HEAD ___:
1. Unchanged 10 mm right occipital intraparenchymal hematoma 
without definiteunderlying enhancing lesion, with slightly 
prominent adjacent draining vein. 
No definite underlying AVM nidus is seen.  This may represent an 
occult
vascular malformation with adjacent developmental venous 
anomaly, howevercontinued follow-up imaging to resolution of 
hemorrhage is recommended in order to exclude the possibility of 
an underlying hemorrhagic neoplasm or AVM that is being 
tamponaded by hematoma.
2. No new hemorrhage, infarct, or enhancing mass.
 
RECOMMENDATION(S):  Continued follow-up imaging to resolution of 
hemorrhage is recommended.

CTA HEAD AND NECK ___:
1. Small focus of right posterior parietal subarachnoid 
hemorrhage versus intraparenchymal hemorrhage, with mild 
surrounding edema.  No definite underlying aneurysm or vascular 
malformation is seen.
2. Patent intracranial arterial vasculature without significant 
stenosis, occlusion, or aneurysm formation.
3. Patent cervical arterial vasculature without significant 
stenosis,
occlusion, or dissection.
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with a history of depression 
on Cymbalta and recent OTC nasal decongestant use (Mucinex-D) 
who presented as a transfer from an OSH following a
acute severe headache, found to have a small right posterior 
parietal subarachnoid hemorrhage discovered on CT head. The 
abrupt quality of the headache is most consistent with a 
thunderclap headache. 

The patient was found to have a convexal subarachnoid 
hemorrhage. It was non-aneurysmal given the distribution of 
blood and lack of aneurysm seen on imaging. Etiology was thought 
to be reversible cerebral vasoconstriction syndrome (RCVS) given 
lack of recent trauma, the patient's young age, and use of 
higher risk agents (i.e. nasal decongestants). 

The patient has multiple risk factors for RCVS, including a 
history of migraines, and recent OTC decongestant use
(Mucinex-D). Most cases of RCVS self-resolve, and management is 
revolved around pain control. She had improvement in her 
headache after oxycodone. 

TRANSITIONAL ISSUES:
- Continue Verapamil SR 120mg BID for RCVS 
- Pain control with oxycodone 5g PO/NG Q6H:PRN and Tylenol (up 
to 1g TID) 
- Continue Magnesium oxide 400mg PO daily 
- Continue Cymbalta 30mg daily
- HOLD Lexapro at this time. We recommend that patient avoid the 
SSRI class of medications due to her known propensity to RCVS. 
If an antidepressant is needed, recommend the tricyclic 
antidepressants (which still have some serotonergic activity, 
just not as much). -AVOID nasal decongestants and any 
vasoconstricting agents. High risk agents include: 
*Antimigraine agents (sumatriptan and other triptans, 
isometheptene, ergotamine tartrate, methylergonovine maleate) 
*Cough and cold suppressants (phenylpropanolamine, 
pseudoephedrine) 
*Diet pills (amphetamine derivatives, Hydroxycut) 
*Antidepressants (selective serotonin reuptake inhibitors and 
serotonin-noradrenaline reuptake inhibitors) 
*Adrenergic agents (epinephrine, bromocriptine, lisuride) 
*Illicit drugs (cocaine, ecstasy, marijuana, lysergic acid 
diethylamide) 
*Chemotherapeutic agents (tacrolimus, cyclophosphamide) 
*Other (erythropoietin, indomethacin, intravenous immune 
globulin, interferon alpha, nicotine patches, red blood cell 
transfusions, licorice, ovarian stimulation, oral contraceptive 
pills) 

-f/u with MRA Head in 2.5 months after D/C (order placed) 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 88 mcg PO DAILY 
2. Liothyronine Sodium 10 mcg PO DAILY 
3. Citalopram 30 mg PO BID 
4. Mucinex D (pseudoephedrine-guaifenesin) 60-600 mg oral PRN 
congestion  
5. Ranitidine 150 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*2 
2.  Magnesium Oxide 400 mg PO DAILY 
RX *magnesium oxide 400 mg 1 capsule(s) by mouth daily Disp 
#*120 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*15 Tablet Refills:*0 
4.  Verapamil SR 120 mg PO BID 
RX *verapamil 120 mg 1 tablet(s) by mouth twice a day Disp #*180 
Tablet Refills:*0 
5.  DULoxetine 30 mg PO DAILY 
RX *duloxetine 30 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*1 
6.  Levothyroxine Sodium 88 mcg PO DAILY  
7.  Liothyronine Sodium 10 mcg PO DAILY  
8.  Ranitidine 150 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Subarachnoid hemorrhage (right parietal, convexal)
Reversible cerebral vasoconstrictive syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of severe headache 
resulting from a small subarachnoid hemorrhage, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
causes a bleed. The brain is the part of your body that controls 
and directs all the other parts of your body, so damage to the 
brain from being deprived of its blood supply can result in a 
variety of symptoms.

This can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are: high cholesterol and 
pre-diabetes. 

We are changing your medications as follows:
-AVOID Lexapro or other medications from the "SSRI" class
-AVOID any over the counter nasal decongestants 
-AVOID other agents associated with RCVS, as follows:
*Antimigraine agents (sumatriptan and other triptans, 
isometheptene, ergotamine tartrate, methylergonovine maleate) 
*Cough and cold suppressants (phenylpropanolamine, 
pseudoephedrine) 
*Diet pills (amphetamine derivatives, Hydroxycut) 
*Antidepressants (selective serotonin reuptake inhibitors and 
serotonin-noradrenaline reuptake inhibitors) 
*Adrenergic agents (epinephrine, bromocriptine, lisuride) 
*Illicit drugs (cocaine, ecstasy, marijuana, lysergic acid 
diethylamide) 
*Chemotherapeutic agents (tacrolimus, cyclophosphamide) 
*Other (erythropoietin, indomethacin, intravenous immune 
globulin, interferon alpha, nicotine patches, red blood cell 
transfusions, licorice, ovarian stimulation, oral contraceptive 
pills) 

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___